US05091432
20.00 g (84.66 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, ethyl ester (AIT-0027) was placed into a 500 ml round bottom flask equipped with a magnetic stirring bar. 150 ml of water was added to the flask and the solution stirred. To the stirring heterogeneous solution was added 10.46 g (0.1854 mol) of KOH pellets. Within a few minutes the solution became a homogeneous light green color. The solution was stirred at room temperature for 3.5 hours. The solution was acidified (pH approximately 1.0) with concentrated HCl. The precipitated solution was placed at 4° C. overnight. The solid was collected by filtration, washed sequentially with water, methanol and ether, and dried. 17.63 g (84.7 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid (AIT-0080) was obtained as a free flowing white solid. Yield: 100%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, ethyl ester | 84.66 mmol, 20.00 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | KOH | 0.1854 mol, 10.46 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid | 84.7 mmol, 17.63 g, Yield: 100% | O=C1C=2N=CN(C2N=CN1)CCC(=O)O | C8H8N4O3
